US05679791
Preparation of Isopropyl 3-(2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
A mixture of 1-(2-chloro-4-fluorophenyl)-3-methyl-s-triazine-2,4,6(1H,3H,5H)-trione (40.9 g, 0.150 mol), potassium carbonate (31.1 g, 0.225 mol) and isopropyl bromoacetate (29.1 mL, 0.225 mol) in N,N-dimethylformamide is stirred at room temperature for 2 hours, poured into water and extracted with ethyl acetate. The organic extract is washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an oil. Flash column chromatography of the oil using silica gel and 0% to 10% ether in methylene chloride solutions gives the title product as a white solid (51.5 g, mp 127°-128° C.).

reactant | 1-(2-chloro-4-fluorophenyl)-3-methyl-s-triazine-2,4,6(1H,3H,5H)-trione | 0.150 mol, 40.9 g | ClC1=C(C=CC(=C1)F)N1C(N(C(NC1=O)=O)C)=O | C10H7ClFN3O3
reactant | potassium carbonate | 0.225 mol, 31.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromoacetate | 0.225 mol, 29.1 mL | BrCC(=O)OC(C)C | C5H9BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Isopropyl 3-(2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | 51.5 g | ClC1=C(C=CC(=C1)F)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O | C15H15ClFN3O5
